US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (800 mg, 2.38 mmol) obtained in the same manner as in the method described in WO03/010140 and N-tert-butoxycarbonylpyrrole-2-boronic acid (1.00 g, 4.76 mmol) in dimethoxyethane (10 ml) and water (5 ml) were added sodium carbonate (757 mg, 7.14 mmol), lithium chloride (202 mg, 4.76 mmol) and tetrakis(triphenylphosphine)palladium (275 mg, 0.238 mmol), and the mixture was heated under reflux for 9 hr. The reaction mixture was allowed to cool to room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=8:1-6:1) to give methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-3-cyclohexyl-1H-indole-6-carboxylate (642 mg, yield 64%).

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 2.38 mmol, 800 mg | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | N-tert-butoxycarbonylpyrrole-2-boronic acid | 4.76 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium carbonate | 7.14 mmol, 757 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 4.76 mmol, 202 mg | [Cl-].[Li+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.238 mmol, 275 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-3-cyclohexyl-1H-indole-6-carboxylate | 642 mg, yield 64% | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C25H30N2O4
